US08026257B2
(1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carboxylate.
To a solution of (1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 5-chloro-1H-indazole-7-carboxylate (15 g, 30.7 mmol) and N-cyclohexyl-N-methylcyclohexanamine (10.86 mL, 50.7 mmol) in tetrahydrofuran (100 mL) at 0° C. was added (2-(chloromethoxy)ethyl)trimethylsilane (8.7 mL, 49 mmol). After 5 min, the ice bath was removed and stirring continued at room temperature for 24 h. The reaction was treated with 25 mL of 2M ammonia in methanol and allowed to stir at room temperature for 20 min. The reaction was diluted with diethyl ether, washed with water, then 1M potassium bisulfate, then water, then brine, dried over magnesium sulfate, and concentrated. TLC shows a slightly less polar impurity. The product was purified by column chromatography. The column was begun with 25% ethyl acetate/n-hexane and continued with that solvent system until the less polar impurity had been removed. The polarity was then ramped to 30% ethyl acetate/n-hexane to give nearly perfect separation. All absolutely pure fractions (by TLC) were combined to give 17.6 g (93%) as an amorphous white foam solid. 1H-NMR (CDCl3, 500 MHz) δ 8.18 (s, 1H), 7.86 (d, J=2.1 Hz, 1H), 7.82 (d, J=1.8 Hz, 1H), 7.44 (dd, J=8.6, 5.6 Hz, 2H), 7.03 (dd, J=8.9, 8.6 Hz, 2H), 5.77 (s, 2H), 4.33 (s, 2H), 3.80 (br, 2H), 3.63 (t, J=8.2 Hz, 2H), 3.07 (m, 2H), 2.28 (m, 2H), 2.05 (m, 2H), 1.42 (s, 9H), 0.93 (t, J=8.2 Hz, 2H), −0.05 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 164.5, 161.7 (d, J=247 Hz), 155.0, 144.4, 137.5, 131.8, 129.1 (d, J=7.7 Hz), 126.8, 125.0, 124.4, 122.7, 121.1, 115.5 (d, J=21 Hz), 82.6, 79.6, 72.7, 68.0, 40.8, 40.1 (br), 32.1, 28.5, 18.1, −1.3. Mass spec.: 618.28 (MH)+.

reactant | (1-(tert-butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 5-chloro-1H-indazole-7-carboxylate | 30.7 mmol, 15 g | ClC=1C=C2C=NNC2=C(C1)C(=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C25H27ClFN3O4
reactant | N-cyclohexyl-N-methylcyclohexanamine | 50.7 mmol, 10.86 mL | C1(CCCCC1)N(C1CCCCC1)C | C13H25N
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 49 mmol, 8.7 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (1-(tert-Butoxycarbonyl)-4-(4-fluorophenyl)piperidin-4-yl)methyl 5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole-7-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(=O)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)COCC[Si](C)(C)C | C31H41ClFN3O5Si
